US04352817
A suspension of 2.6 g (10 mmol) of 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid in 20 ml of pyridine is firstly treated with 25 ml of t-butanol and subsequently treated dropwise at -5° with 1.1 ml of phosphorus oxychloride. The mixture is stirred at -5° for 15 minutes and at room temperature for 48 hours, poured into 250 ml of water and extracted four times with chloroform. The chloroform extracts are washed three times with dilute sodium hydroxide and three times with water, dried over magnesium sulphate and evaporated. After recrystallization of the residue from ethyl acetate, there is obtained t-butyl 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate of melting point 216°-217°.

reactant | 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid | 10 mmol, 2.6 g | CN1CC=2N(C3=C(C1=O)C=CC=C3)C=NC2C(=O)O | C13H11N3O3
reactant | t-butanol | 25 ml | C(C)(C)(C)O | C4H10O
reactant | phosphorus oxychloride | 1.1 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | water | 250 ml | O | H2O
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | t-butyl 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate | CN1CC=2N(C3=C(C1=O)C=CC=C3)C=NC2C(=O)OC(C)(C)C | C17H19N3O3
